US09353107B2
Step-ii: tert-butyl 4-(4-(3-(1-(3-aminobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate
Using similar reaction conditions as described in example-8, tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-nitrobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (200 mg, 0.262 mmol) was reduced by 10% palladium on carbon (20 mg, 10% W/W), ethanol (3 mL) to yield 150 mg (yield 78.08%) of the titled compound. MS: m/z=7 32.3 (M+1).

reactant | tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-nitrobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.262 mmol, 200 mg | CC1=NN(C(=C1C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C)C=C2)C)CC2=CC(=CC=C2)[N+](=O)[O-] | C41H43N7O6S
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | tert-butyl 4-(4-(3-(1-(3-aminobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 150 mg, yield 78.08% | NC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C41H45N7O4S
